US05104888
6-t-Butoxycarbonylmethoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one
A mixture of 5.6 g of sodium hydroxide, 150 ml of ethanol and 20 ml of water was added dropwise to a mixture of 25 g of 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 47), 30 ml of dimethylformamide and 150 ml of ethanol, whilst ice-cooling, and the reaction mixture was stirred for 3 hours. 18.3 g of t-butyl bromoacetate were then added. The reaction mixture was stirred for 1 hour at room temperature and then allowed to stand overnight. After this, the reaction mixture was poured into water, neutralized with a 10% w/v aqueous hydrogen chloride solution and extracted with benzene. This extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography eluted with a 20:1 by volume mixture of benzene and ethyl acetate, to give the title compound.

reactant | sodium hydroxide | 5.6 g | [OH-].[Na+]
reactant | 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 25 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C | C22H23NO7
reactant | t-butyl bromoacetate | 18.3 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-t-Butoxycarbonylmethoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman-4-one | C(C)(C)(C)OC(=O)COC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C | C26H31NO8
